US07442701B2
To a mixture of 5-chloropyridazin-3(2H)-one (2.0 g, 15.3 mmol) and 3-cyanophenyl boronic acid (2.71 g, 18.4 mmol) in anhydrous toluene (20 ml) was added dichloro-(1,4-bis(diphenylphosphino)-butane)palladium (0.1 g, 0.16 mmol), and saturated aqueous sodium carbonate solution (5.0 ml) and the mixture was irradiated in a Milestone microwave reactor at 120° C. for 15 minutes. The resulting suspension was filtered and the solid was washed with isopropanol (20 ml) and dried on the sinter to give 5-(3-cyanophenyl)pyridazin-3-one (1.8 g, 50%) as a yellow solid.

reactant | 5-chloropyridazin-3(2H)-one | 15.3 mmol, 2.0 g | ClC1=CC(NN=C1)=O | C4H3ClN2O
reactant | 3-cyanophenyl boronic acid | 18.4 mmol, 2.71 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 5.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(3-cyanophenyl)pyridazin-3-one | 1.8 g, 50% | C(#N)C=1C=C(C=CC1)C1=CC(NN=C1)=O | C11H7N3O
